US08053440B2
2-(4-(Bis(2-hydroxyethyl)amino)phenyl)-6,7-dimethoxyquinazolin-4(3H)-one was synthesized from 2-amino-4,5-dimethoxy-benzamide and 4-(N,N-bis(2-hydroxyethyl)amino)benzaldehyde, using the method described for 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one. 2-(4-(Bis(2-hydroxyethyl)amino)phenyl)-6,7-dimethoxyquinazolin-4(3H)-one (72 mg, 24%) was isolated as a yellow solid. Selected data: MS (m/z): 386.15; MP 268-270° C.

reactant | 2-amino-4,5-dimethoxy-benzamide | NC1=C(C(=O)N)C=C(C(=C1)OC)OC | C9H12N2O3
reactant | 4-(N,N-bis(2-hydroxyethyl)amino)benzaldehyde | OCCN(CCO)C1=CC=C(C=O)C=C1 | C11H15NO3
reactant | 5,7-dimethoxy-2-(pyridin-2-yl)quinazolin-4(3H)-one | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC=CC=C1)=O | C15H13N3O3
product | 2-(4-(Bis(2-hydroxyethyl)amino)phenyl)-6,7-dimethoxyquinazolin-4(3H)-one | 72 mg, 24% | OCCN(C1=CC=C(C=C1)C1=NC2=CC(=C(C=C2C(N1)=O)OC)OC)CCO | C20H23N3O5
